US07183290B2
A. Tert-butyl 1-(4-cyano-3-fluorophenyl)piperidin-4-ylcarbamate.
A DMSO (25 mL, 0.1 M) solution containing 4-N—BOC-aminopiperidine (500 mg, 2.5 mmol, 1.0 eq), 2,4-difluorobenzonitrile (348 mg, 2.5 mmol, 1.0 eq), and potassium carbonate (691 mg, 5.0 mmol, 2.0 eq) was heated to 100° C. for 18 h. The resulting mixture was cooled to RT, poured in H2O (ca 50 mL), and extracted (3×) with EtOAc. The combined extracts were washed (2×) with H2O, dried over MgSO4, and concentrated in vacuo. The resulting solid was purified via flash chromatography using 1:1 hexanes/EtOAc as the mobile phase. Isolated 530 mg (1.66 mmol, 66% yield).

reactant | DMSO | 0.1 M, 25 mL | CS(=O)C | C2H6OS
reactant | 4-N—BOC-aminopiperidine | 2.5 mmol, 500 mg, 1.0 eq | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | 2,4-difluorobenzonitrile | 2.5 mmol, 348 mg, 1.0 eq | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | potassium carbonate | 5.0 mmol, 691 mg, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
solvent | H2O | ca 50 mL | O | H2O
product | Tert-butyl 1-(4-cyano-3-fluorophenyl)piperidin-4-ylcarbamate | 66% yield | C(#N)C1=C(C=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O)F | C17H22FN3O2
